US06518335B2
Preparation of 2-(1-Methyl-2-trimethoxysilylethyl)-1,3-dithiolane
The procedure and apparatus of Example 1 were used with 25.0 g (0.102 m) of (3,3-dimethoxy-2-methylpropyl)trimethoxysilane (boiling point, 125°/25 mm, prepared by the hydrosilation of methacrolein dimethyl acetal with trimethoxysilane, as characterized by GC/MS and NMR), 9.6 g (0.102 m) of ethane-1,2-dithiol, and 0.07 g of anhydrous zinc chloride catalyst. The crude product, after distillation to a pot temperature of 195°, was 27.1 g, containing 64.3% of the title product as determined by GC/MS.

reactant | (3,3-dimethoxy-2-methylpropyl)trimethoxysilane | 25.0 g | COC(C(C[Si](OC)(OC)OC)C)OC | C9H22O5Si
reactant | methacrolein dimethyl acetal | COC(C(C)=C)OC | C6H12O2
reactant | trimethoxysilane | CO[SiH](OC)OC | C3H10O3Si
reactant | ethane-1,2-dithiol | 9.6 g | C(CS)S | C2H6S2
catalyst | zinc chloride | 0.07 g | [Cl-].[Zn+2].[Cl-]
product | 2-(1-Methyl-2-trimethoxysilylethyl)-1,3-dithiolane | CC(C[Si](OC)(OC)OC)C1SCCS1 | C9H20O3S2Si
